US08802712B2
Under a nitrogen atmosphere, 4-cyanophenylacetonitrile (3.86 g, 27.12 mmol) is dissolved in dry tetrahydrofuran (185 ml). Sodium hydride (60% dispersion in paraffin oil, 2.17 g, 54.25 mmol) is subsequently added in portions with ice-bath cooling, and the mixture is stirred for a further 30 min. A suspension of 6-benzyloxy-4-chloro-7-methoxy-3-nitro-quinoline (9.35 g, 27.12 mmol) in N,N-dimethylformamide (50 ml) is then added at room temperature, and the mixture is subsequently stirred for a further 2 h. When the reaction is complete, the mixture is added to 2.5 l of water and neutralised using 1.0 M hydrochloric acid with vigorous stirring. After stirring for 30 min, the suspension is acidified to about pH 2, and, after a further 30 min, the precipitate obtained is filtered off with suction, rinsed with water and dried overnight in a high vacuum. The crude product is subsequently purified over flash silica gel (solvent gradient cyclohexane/0-50% by vol. of ethyl acetate), giving 4-[(6-benzyloxy-7-methoxy-3-nitroquinolin-4-yl)cyanomethyl]benzonitrile (11.31 g, 25.11 mmol) as a solid having a melting point of 147.9° C. MS: 451.1 (M+H+), TLC (HPTLC) (HPTLC): Rf=0.68 (cyclohexane/ethyl acetate 1:1 parts by volume).

reactant | 4-cyanophenylacetonitrile | 27.12 mmol, 3.86 g | C(#N)C1=CC=C(C=C1)CC#N | C9H6N2
reactant | Sodium hydride | 54.25 mmol, 2.17 g | [H-].[Na+]
reactant | 6-benzyloxy-4-chloro-7-methoxy-3-nitro-quinoline | 27.12 mmol, 9.35 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])Cl | C17H13ClN2O4
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | tetrahydrofuran | 185 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 2.5 l | O | H2O
product | 4-[(6-benzyloxy-7-methoxy-3-nitroquinolin-4-yl)cyanomethyl]benzonitrile | 25.11 mmol, 11.31 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])C(C1=CC=C(C#N)C=C1)C#N | C26H18N4O4
